US07863291B2
A mixture of dimethyl 7-methoxythiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate (150 mg, 0.52 mmol), (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride (132 mg, 0.58 mmol) and cesium carbonate (427 mg, 1.31 mmol) in DMF (3 mL) was heated to 100° C. for 2 hours. The reaction mixture was cooled to ambient temperature, poured into water and extracted with chloroform (4×). The combined organics were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The mixture was purified by silica gel chromatography (2-40% [9:1 methanol:ammonium hydroxide]-chloroform). The product fractions were combined and concentrated in vacuo to afford (R)—N-(7-methoxythiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (95 mg, 51% yield). 1H NMR (400 MHz, CDCl3) δ ppm 9.12 (br. s., 1 H) 8.52 (s, 1 H) 4.16 (s, 3 H) 4.05 (d, J=9.54 Hz, 1 H) 3.70 (d, J=9.54 Hz, 1 H) 3.40 (dd, J=14.93, 1.88 Hz, 1 H) 2.70-3.07 (m, 5 H) 2.08-2.27 (m, 2 H) 1.68-1.85 (m, 1 H) 1.48-1.66 (m, 2 H). MS (LC/MS) R.T.=0.90; [M+H]+=347.34.

reactant | dimethyl 7-methoxythiazolo[5,4-d]pyrimidin-2-ylcarbonimidodithioate | 0.52 mmol, 150 mg | COC=1C2=C(N=CN1)SC(=N2)N=C(SC)SC | C9H10N4OS3
reactant | (S)-3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.58 mmol, 132 mg | Cl.Cl.NC[C@@]1(CN2CCC1CC2)O
reactant | cesium carbonate | 1.31 mmol, 427 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (R)—N-(7-methoxythiazolo[5,4-d]pyrimidin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 95 mg, 51% yield | COC=1C2=C(N=CN1)SC(=N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C15H18N6O2S
